US04935414
4-Difluoromethoxybenzophenone
100 g of 4-hydroxybenzophenone and 200 g of sodium hydroxide are dissolved in a mixture of 1 l of water and 500 ml of dioxane. The mixture is heated to 70° C. and a vigorous stream of difluorochloromethane (Frigen 22) is introduced. After 2 hours, the mixture is cooled to room temperature and 1 l of water is added to the contents of the flask. The mixture is extracted three times using 1.2 l of chloroform each time, the chloroform phase is extracted by shaking with 1N sodium hydroxide solution, washed with water and the organic phase is dried using potassium carbonate. After stripping off the solvent and subsequent distillation under vacuum, 60 g (48%) of 4-difluoromethoxybenzophenone are obtained as a pale yellow oil.

reactant | 4-hydroxybenzophenone | 100 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | sodium hydroxide | 200 g | [OH-].[Na+]
reactant | difluorochloromethane | FC(Cl)F | CHClF2
solvent | water | 1 l | O | H2O
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 l | O | H2O
product | 4-Difluoromethoxybenzophenone | FC(OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1)F | C14H10F2O2
